US07741326B2
A solution of 3-benzyl-7-(4-tert-butoxycarbonyl-piperazin-1-yl)-indole-1-carboxylic acid tert-butyl ester (186 mg, 0.38 mmol) in THF (5 ml) was cooled to −78° C., and Sec-BuLi (1.4 ml, 1.4 M in cyclohexane) was added. After stirring at −78° C. for 20 minutes, 1 ml of dimethyl sulfide was added and the reaction was allowed to warm up to room temperature for 30 minutes. H2O was slowly added, followed by EtOAC. The organic layer was separated and washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo to give crude 3-benzyl-7-(4-tert-butoxycarbonyl-piperazin-1-yl)-2-methylsulfanyl-indole-1-carboxylic acid tert-butyl ester as an oil (277 mg), which was used without further purification.

reactant | 3-benzyl-7-(4-tert-butoxycarbonyl-piperazin-1-yl)-indole-1-carboxylic acid tert-butyl ester | 0.38 mmol, 186 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC(=C12)N1CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C29H37N3O4
reactant | Sec BuLi | 1.4 M, 1.4 ml | N[C@@H](C[SeH])C(=O)O.[Li]CCCC
reactant | dimethyl sulfide | 1 ml | CSC | C2H6S
reactant | H2O | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-benzyl-7-(4-tert-butoxycarbonyl-piperazin-1-yl)-2-methylsulfanyl-indole-1-carboxylic acid tert-butyl ester | 277 mg | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC(=C12)N1CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1)SC | C30H39N3O4S
